US04952669
(a) Preparation of 2-(4-Methylphenyl)-2-phenylhexafluoropropane.
1290 g of 2-(4-methylphenyl)hexafluoropropan-2-ol and 780 g of benzene were placed in a 5-liter steel autoclave and 1500 g of anhydrous hydrogen fluoride was pumped into the sealed autoclave. The reaction mixture was heated at 170°-175°C. with stirring for 64 hours. After completion of the reaction, hydrogen fluoride gas was allowed to escape at 80° C., and the liquid product was then washed twice with water, dried over calcium chloride, and fractionally distilled. Boiling point 135-136C./1.4 mbar. Yield: 1424 g (89.5%).

reactant | 2-(4-methylphenyl)hexafluoropropan-2-ol | 1290 g | CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H8F6O
reactant | hydrogen fluoride | 1500 g | F | FH
solvent | benzene | 780 g | C1=CC=CC=C1 | C6H6
product | 2-(4-Methylphenyl)-2-phenylhexafluoropropane | CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=CC=C1 | C16H12F6
